US07776897B2
3-[1-(2-Thienyl)cyclopentyl]-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-d][1,4]diazepine (190 mg) was dissolved in dichloromethane (15 ml) and then pyridine (106 μl) and acetic anhydride (62 μl) were added at room temperature, followed by stirring at the same temperature for 15 hours. The residue obtained by removing the solvent by evaporation was diluted with ethyl acetate and washed with 0.3M hydrochloric acid, water, and brine, successively. The solution was dried over anhydrous magnesium sulfate and filtered and then the solvent was removed by evaporation under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:methanol=99:1 to 95:5) to obtain 110 mg of 7-acetyl-3-[1-(2-thienyl)cyclopentyl]-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-d][1,4]diazepine (white solid).

reactant | 3-[1-(2-Thienyl)cyclopentyl]-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-d][1,4]diazepine | 190 mg | S1C(=CC=C1)C1(CCCC1)C1=NN=C2N1CCNCC2 | C15H20N4S
reactant | pyridine | 106 μl | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 62 μl | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 7-acetyl-3-[1-(2-thienyl)cyclopentyl]-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-d][1,4]diazepine | 110 mg | C(C)(=O)N1CCN2C(CC1)=NN=C2C2(CCCC2)C=2SC=CC2 | C17H22N4OS
